US05891909
b) 3-[3-(5-Bromo-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propanol
To 1.39 g (3.72 mmol) 3-(5-bromo-2-methoxyphenylsulfonyloxy)-5-methylphenol, as prepared in the preceding step, 2.69 mL (37.2 mmol) of 1,3-propanediol and 1.95 g (7.44 mmol) of triphenylphosphine in 25 mL of anhydrous tetrahydrofuran was added 1.17 mL (7.44 mmol) of diethyl azodicarboxylate dropwise over 15 min. After stirring at ambient temperature for 2 h, the reaction mixture was concentrated to a semisolid. The resulting mixture was flash chromatographed on 250 g of silica gel with 60% ethyl acetate-hexane to give a mixture of desired product and triphenylphosphine oxide. A second chromatography on 120 g of silica gel with 8% acetone-dichloromethane afforded 1.43 g (89% yield) of the pure title compound as a colorless resin: 1H-NMR (300 MHz; CDCl3) δ 7.95 (d, 1 H, J=2.5 Hz), 7.70 (dd, 1 H, J=8.9, 2.5 Hz), 6.98 (d, 1 H, J=8.9 Hz), 6.62 (br s, 1 H), 6.52 (br s, 1 H), 6.46 (t, 1 H, J=2.0 Hz), 4.03 (t, 2 H, J=6.0 Hz), 4.00 (s, 3 H), 3.84 (q, 2 H, J=5.7 Hz), 2.26 (s, 3 H) and 2.00 (m, 2 H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C17H1981BrO6S: 455.0 (M+Na). Found: 454.8.

reactant | 3-(5-bromo-2-methoxyphenylsulfonyloxy)-5-methylphenol | 3.72 mmol, 1.39 g | BrC=1C=CC(=C(C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O)OC | C14H13BrO5S
reactant | 1,3-propanediol | 37.2 mmol, 2.69 mL | C(CCO)O | C3H8O2
reactant | triphenylphosphine | 7.44 mmol, 1.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 7.44 mmol, 1.17 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-[3-(5-Bromo-2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propanol | BrC=1C=CC(=C(C1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C)OC | C17H19BrO6S
